US06184225B2
A solution of 4-chloro-7-(2-methoxyethoxy)quinazoline hydrochloride (275 mg, 1 mmol) and 2-fluoro-5-hydroxy4-methylaniline (170 mg, 1.2 mmol), (prepared as described for the starting material in Example 8), in 2-pentanol (5 ml) was heated at reflux for 2 hours. The mixture was allowed to cool and the precipitate was collected by filtration, washed with isopropanol and ether, and dried under vacuum at 70° C. to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-methoxyethoxy)quinazoline hydrochloride(295 mg, 78%) as a cream solid.

reactant | 4-chloro-7-(2-methoxyethoxy)quinazoline hydrochloride | 1 mmol, 275 mg | Cl.ClC1=NC=NC2=CC(=CC=C12)OCCOC
reactant | 2-fluoro-5-hydroxy4-methylaniline | 1.2 mmol, 170 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | 2-pentanol | 5 ml | CC(CCC)O | C5H12O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-methoxyethoxy)quinazoline hydrochloride | 295 mg, 78% | Cl.FC1=C(NC2=NC=NC3=CC(=CC=C23)OCCOC)C=C(C(=C1)C)O | InChI=1S/C18H18FN3O3.ClH/c1-11-7-14(19)16(9-17(11)23)22-18-13-4-3-12(25-6-5-24-2)8-15(13)20-10-21-18;/h3-4,7-10,23H,5-6H2,1-2H3,(H,20,21,22);1H
